US06664256B1
Preparation of 3,4-bis(4-methoxyphenyl)-6-(2,6-difluorophenoxy)pyridazine
In a similar manner as in Example 2, 3,4-bis(4-methoxyphenyl)-6-chloropyridazine (200 mg, 0.613 mmol) and 2,6-difluorophenol were reacted as starting materials at 150° C. for 72 hours and post-treatment was then conducted, whereby the title compound was obtained as a colorless crystalline powder (101.0 mg, 39.3%). Melting point: 204.7-206.4° C. (chloroform-hexane).

reactant | 3,4-bis(4-methoxyphenyl)-6-chloropyridazine | 0.613 mmol, 200 mg | COC1=CC=C(C=C1)C=1N=NC(=CC1C1=CC=C(C=C1)OC)Cl | C18H15ClN2O2
reactant | 2,6-difluorophenol | FC1=C(C(=CC=C1)F)O | C6H4F2O
product | 3,4-bis(4-methoxyphenyl)-6-(2,6-difluorophenoxy)pyridazine | COC1=CC=C(C=C1)C=1N=NC(=CC1C1=CC=C(C=C1)OC)OC1=C(C=CC=C1F)F | C24H18F2N2O3
